US08076488B2
Preparation of 4-(4-Amino-2-methylphenoxy) Pyridine-2-carboxylic acid methylamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide, substituting 4-amino-2-methylphenol for 4-aminophenol. 1H-NMR (DMSO-d6) δ 8.73 (br q, J=4.8 Hz, 1H), 8.43 (d, J=5.4 Hz, 1H), 7.26 (d, J=2.4 Hz, 1H), 7.02 (dd, J=5.7, 2.7 Hz, 1H), 7.76 (d, J=8.1 Hz, 1H), 6.52 (d, J=3 Hz, 1H), 6.47 (dd, J=8.7, 2.7 Hz, 1H), 5.09 (s, 2H), 2.78 (d, J=3.3 Hz, 3H), 1.91 (s, 3H).

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
product | 4-(4-Amino-2-methylphenoxy) Pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)N)C | C14H15N3O2
